US07547702B2
Analogously to example 17, 2,4,7-trichloro-quinazoline is reacted with N1,N1-diethyl-pentane-1,4-diamine to give N4-(2,7-dichloro-quinazolin-4-yl)-N1,N1-diethyl-pentane-1,4-diamine and is further reacted

reactant | 2,4,7-trichloro-quinazoline | ClC1=NC2=CC(=CC=C2C(=N1)Cl)Cl | C8H3Cl3N2
reactant | N1,N1-diethyl-pentane-1,4-diamine | C(C)N(CCCC(C)N)CC | C9H22N2
product | N4-(2,7-dichloro-quinazolin-4-yl)-N1,N1-diethyl-pentane-1,4-diamine | ClC1=NC2=CC(=CC=C2C(=N1)NC(CCCN(CC)CC)C)Cl | C17H24Cl2N4
